US08455686B2
To a solution of N-methylbenzoselenohydrazide, (430 mg, 2.0 mmol) and 2-(2-methylhydrazono)malonic acid (146 mg, 1.0 mmol) in CH2Cl2 (10 mL), was added EDC (480 mg, 2.5 mmol). The mixture was stirred for 1 h at RT. The reaction mixture was diluted with CH2Cl2 (25 mL) and washed with water and brine. The organic layer was dried over MgSO4 and filtered. After removal of the solvent, the product was purified by chromatography column on silica gel (1:1 Hexane: EtOAc and EtOAc) and to give N′1,N′3-dimethyl-2-(2-methylhydrazono)-N′1,N′3-di(phenylcarbonoselenoyl)malonohydrazide; (Compound 13) (330 mg) in 61.5% yield.

reactant | N-methylbenzoselenohydrazide | 2.0 mmol, 430 mg | CN(N)C(C1=CC=CC=C1)=[Se] | C8H10N2Se
reactant | 2-(2-methylhydrazono)malonic acid | 1.0 mmol, 146 mg | CNN=C(C(=O)O)C(=O)O | C4H6N2O4
reactant | EDC | 2.5 mmol, 480 mg
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | N′1,N′3-dimethyl-2-(2-methylhydrazono)-N′1,N′3-di(phenylcarbonoselenoyl)malonohydrazide | 61.5% yield | CN(NC(C(C(=O)NN(C(=[Se])C1=CC=CC=C1)C)=NNC)=O)C(=[Se])C1=CC=CC=C1 | C20H22N6O2Se2
